US04415572
To a mixture of 1.0 g of 6-(1-piperazinyl)-3,4-dihydrocarbostyril, 1.11 g of potassium carbonate and 20 ml of DMF was added 780 mg of 4-chlorobenzyl chloride and the mixture was stirred at 70°-80° C. for 4 hours. The reaction mixture was poured into a large amount of water and extracted with chloroform. Chloroform was distilled off and the residue was purified through silica gel column chromatography. Recrystallization from chloroform-methanol gave 500 mg of 6-[4-(4-chlorobenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril, m.p. 190°-191.5° C., colorless needles.

reactant | 6-(1-piperazinyl)-3,4-dihydrocarbostyril | 1.0 g | N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O | C13H17N3O
reactant | potassium carbonate | 1.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | 4-chlorobenzyl chloride | 780 mg | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | water | O | H2O
product | 6-[4-(4-chlorobenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 500 mg | ClC1=CC=C(CN2CCN(CC2)C=2C=C3CCC(NC3=CC2)=O)C=C1 | C20H22ClN3O
